US06534517B2
A solution of 2-[4-(2-benzyloxy-ethoxy)-benzyl]-malonic acid dimethyl ester (64.0 g, 172 mmol) in ethyl acetate (700 mL) was hydrogenated at 3 atm. in the presence of 10% palladium on charcoal (3.0 g). The solution was filtered, and the filtrate evaporated under vacuo to give 2-[4-(2-hydroxy-ethoxy)-benzyl]-malonic acid dimethyl ester. 1H NMR (300 MHz, CDCl3): δ2.06 (bs, 1H), 3.18 (d, 2H), 3.63 (t, 1H), 3.70 (s, 6H), 3.94 (t, 2H), 4.05 (t, 3H), 6.83 (d, 2H), 7.12 (d, 2H).

reactant | 2-[4-(2-benzyloxy-ethoxy)-benzyl]-malonic acid dimethyl ester | 172 mmol, 64.0 g | COC(C(C(=O)OC)CC1=CC=C(C=C1)OCCOCC1=CC=CC=C1)=O | C21H24O6
solvent | ethyl acetate | 700 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 3.0 g | [Pd] | Pd
product | 2-[4-(2-hydroxy-ethoxy)-benzyl]-malonic acid dimethyl ester | COC(C(C(=O)OC)CC1=CC=C(C=C1)OCCO)=O | C14H18O6
